US07981903B2
A suspension of N,2-dimethyl-4-(methyloxy)aniline (5.10 g, 33.7 mmol) and potassium carbonate (9.32 g, 67.5 mmol) in tetrahydrofuran (150 ml) was treated with bromoacetylchloride (3.50 ml, 42.2 mmol), stirred for 45 minutes, and dimethyl amine in tetrahydrofuran (67.5 ml, 135 mmol) was added. The solution was stirred for 3 hours, additional dimethyl amine in tetrahydrofuran (67.5 ml, 135 mmol) was added, and the solution was warmed to 50° C. and maintained overnight. The solution was cooled, poured into ethyl acetate/saturated sodium bicarbonate, and the organic layer was separated, dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by column chromatography to afford N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)phenyl]glycinamide (5.10 g, 21.58 mmol, 64.0% yield) as a yellow oil. 1H NMR (400 MHz, DMSO-d6); two protons likely obstructed by DMSO; δ ppm 7.13 (d, J=8.6 Hz, 1 H), 6.90 (d, J=2.6 Hz, 1 H), 6.77-6.84 (m, 1 H), 3.76 (s, 3 H), 3.00 (s, 3 H), 2.13 (s, 3 H), 2.08 (s, 6 H).

reactant | N,2-dimethyl-4-(methyloxy)aniline | 33.7 mmol, 5.10 g | CNC1=C(C=C(C=C1)OC)C | C9H13NO
reactant | potassium carbonate | 67.5 mmol, 9.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetylchloride | 42.2 mmol, 3.50 ml | BrCC(=O)Cl | C2H2BrClO
reactant | dimethyl amine | CNC | C2H7N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 135 mmol, 67.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 135 mmol, 67.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)phenyl]glycinamide | 21.58 mmol, 5.10 g, 64.0% yield | CN(C(CN(C)C)=O)C1=C(C=C(C=C1)OC)C | C13H20N2O2
